US07875721B2
1-[4-(4-Methoxy-phenyl)-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinolin-8-yl]-ethanone
4-Methoxybenzaldehyde (0.074 g, 0.5 mmol) and 4-aminoacetophenone (0.068 g 0.5 mmol) were heated to melting in a round bottom flask, then a solution of the catalyst Sc(OTf)3 (0.0248 g, 0.05 mmol, 10 mol %) in anhydrous acetonitrile (0.2 mL) was added to the molten solid, followed by a solution of cyclopentadiene (0.165 g, 2.5 mmol) in acetonitrile (3 mL). The reaction was stirred at rt for 2.30 h. The reaction mixture was concentrated under reduced pressure. The crude material was purified by preparative column chromatography using silica gel (SiO2) eluted with 10% EtOAc/Hexanes to give the product as a colorless solid (0.120 g, 76%).

reactant | 4-Methoxybenzaldehyde | 0.5 mmol, 0.074 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 4-aminoacetophenone | 0.5 mmol, 0.068 g | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | cyclopentadiene | 2.5 mmol, 0.165 g | C1=CC=CC1 | C5H6
solvent | acetonitrile | 0.2 mL | C(C)#N | C2H3N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | Sc(OTf)3 | 0.05 mmol, 0.0248 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Sc+3]
product | 1-[4-(4-Methoxy-phenyl)-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinolin-8-yl]-ethanone | 0.120 g, 76% | COC1=CC=C(C=C1)C1NC=2C=CC(=CC2C2C1CC=C2)C(C)=O | C21H21NO2
